US06291477B1
c) 5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline
At −5° C., 0.06 ml of diethylaminosulphur trifluoride, dissolved in 10.15 ml of toluene, was added dropwise to 200 mg (0.3 mmol) of [5-(tertbutyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol dissolved in 2 ml of toluene. After 60 minutes, the reaction was quenched with saturated aqueous sodium bicarbonate solution, toluene was added and the organic phase was washed once more with saturated aqueous sodium bicarbonate solution and dried. The solvent was distilled off under reduced pressure and the residue was then purified over a silica gel column This gave a total of 190 mg of a colourless oil.

reactant | diethylaminosulphur trifluoride | 0.06 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | [5-(tertbutyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol | 0.3 mmol, 200 mg | C(C)(C)(C)[Si](OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(O)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)F)F)(C)C | C36H44F5NO2Si
solvent | toluene | 10.15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline | 190 mg | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)F)F | C36H43F6NOSi
